US05736539
1-tert-Butoxycarbonyl-2(S)-(4-tert-butoxycarbonyl-aminobutyl)piperazine
The title compound was prepared according to the procedure described in Example 2, Step C except using 4-benzyl-1-tert-butoxycarbonyl-2(S)-(4-tert-butoxycarbonylaminobutyl)-piperazine (3.74 g, 8.36 mmol), 10% palladium on carbon (0.50 g) in methanol (50 mL) for 48 h at 60 psi hydrogen. The title compound (Rf 0.3 in 5% methanol in chloroform) was obtained as an oil (3.14 g). NMR (300 MHz, CDCl3) d 4.59 (1H, m), 4.00 (1H, m), 3.83 (1H, br d J=12 Hz), 3.12 (2H, m), 2.90 (4H, m), 2.70 (1H, dt, J=4, 13 Hz), 1.0-1.9 (25H, m).

reactant | 4-benzyl-1-tert-butoxycarbonyl-2(S)-(4-tert-butoxycarbonylaminobutyl)-piperazine | 8.36 mmol, 3.74 g | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCCCNC(=O)OC(C)(C)C | C25H41N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | 1-tert-Butoxycarbonyl-2(S)-(4-tert-butoxycarbonyl-aminobutyl)piperazine | 5% | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)CCCC(C(=O)OC(C)(C)C)N | C18H35N3O4
